US04849420
5,6,8,9,15,15a-Hexahydro-3-methoxy-[1,3]dioxolo[4,5-h]isoquino[1,2-b][3]benzazepine (XIIIb)
The title compound was prepared as described in Example 18 by the reduction of 5,9,15,15a-tetrahydro-3-methoxy-[1,3]dioxolo[4,5-h]isoquino-[1,2-b][3]benzazepine-8(6H)-one hemiethanolate (XIIb, Ex. 14) (3.60 g, 10 mmole) with deborane in tetrahydrofurane (25 ml of 1.0M solution). The product was extracted with methylene chloride. The methylene chloride extract was dried (Na2SO4), and evaporated on a rotary evaporator to give an oil which solidified on standing. Recrystallization from ethanol afforded the titled compound (2.57 g, 80%), mp 133°-135°.

reactant | 5,9,15,15a-tetrahydro-3-methoxy-[1,3]dioxolo[4,5-h]isoquino-[1,2-b][3]benzazepine-8(6H)-one | COC1=CC=2CCN3C(CC4=C(CC3=O)C=C3C(=C4)OCO3)C2C=C1 | C20H19NO4
solvent | tetrahydrofurane | 1.0M, 25 ml | O1CCCC1 | C4H8O
product | 5,6,8,9,15,15a-Hexahydro-3-methoxy-[1,3]dioxolo[4,5-h]isoquino[1,2-b][3]benzazepine | 2.57 g, 80% | COC1=CC=2CCN3C(CC4=C(CC3)C=C3C(=C4)OCO3)C2C=C1 | C20H21NO3
